US07538233B2
4-(3-Dimethylamino-propoxy)-1-benzopyran-2-one Hydrochloric acid salt
4-Hydroxycoumarin (3.0 mmol, 0.487 g) is dissolved in 10 mL of THF. Triphenylphosphine (3.15 mmol, 0.825 g) and 3-dimethylamino-propan-1-ol (3.15 mmol, 0.372 mL) is added and the solution is cooled to 0° C. DIAD (3.30 mmol, 0.647 g) is added dropwise at 0° C. The reaction is stirred 30 min. at 0° C then is allowed to warm to ambient temperature and is stirred overnight. The solvent is evaporated under reduced pressure, and a solution of anhydrous HCl/MeOH (prepared by adding ˜5 mL acetyl chloride dropwise to 100 mL MeOH) is added to the residue. Alternatively 4M HCl in dioxane may be used. The solvent is removed under reduced pressure and the residue is treated with Et2O. The resulting solid is filtered, is washed with Et2O, and is dried to afford the title compound as the hydrochloric acid salt (0.485g, 57%). 1H NMR (DMSO-d6, 300 MHz) δ 10.35 (1H, br s), 7.90 (1H, dd, J=1.25, 7.75 Hz), 7.68 (1H, m), 7.41 (2H, m), 5.92 (1H, s), 4.32 (2H, t, J=5.75 Hz), 3.27 (2H, m), 2.80 (6H, s), 2.25 (2H, m); MS (ESI, Pos.) calcd for C14H17NO3 m/z [M+H]=248.1, found 248.1.

reactant | 4-Hydroxycoumarin | 3.0 mmol, 0.487 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | Triphenylphosphine | 3.15 mmol, 0.825 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-dimethylamino-propan-1-ol | 3.15 mmol, 0.372 mL | CN(CCCO)C | C5H13NO
reactant | DIAD | 3.30 mmol, 0.647 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | acetyl chloride | ˜5 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 4M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | MeOH | 100 mL | CO | CH4O
product | 4-(3-Dimethylamino-propoxy)-1-benzopyran-2-one Hydrochloric acid salt | 0.485g, 57% | Cl.CN(CCCOC1=CC(OC2=C1C=CC=C2)=O)C | InChI=1S/C14H17NO3.ClH/c1-15(2)8-5-9-17-13-10-14(16)18-12-7-4-3-6-11(12)13;/h3-4,6-7,10H,5,8-9H2,1-2H3;1H
